US07795236B2
3-Acetoxy-5-benzyloxybenzoic acid
3-Benzyloxy-5-hydroxybenzoic acid (2.16 g) and acetic anhydride (15 mL) were suspended in acetic acid (15 mL), and the resulting mixture was stirred at 120° C. for 24 hours. The reaction mixture was concentrated under reduced pressure and the residue obtained was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/1 to 1/0) to give the title compound (1.74 g).

reactant | 3-Benzyloxy-5-hydroxybenzoic acid | 2.16 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)O | C14H12O4
reactant | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 3-Acetoxy-5-benzyloxybenzoic acid | 1.74 g | C(C)(=O)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C16H14O5
